US07008957B2
10e) 2-Trimethylsilanylethyl 4-((S)-1-tert-butoxycarbonylamino-1-methoxycarbonyl-but-3-enyl)piperidine-1-carboxylate
50 ml of ammonia were condensed at −78° C. 340 mg of sodium were added in 2 portions at an interval of 10 min in each case and the mixture was stirred for 20 min. At −60° C., a solution of 916 mg of tert-butyl (3S,5R,6S)-3-allyl-2-oxo-5,6-diphenyl-3-[1-(2-trimethylsilanylethoxycarbonyl)piperidin-4-yl]morpholine-4-carboxylate and 866 μl of ethanol in 50 ml of THF was added dropwise. The mixture was stirred at −45° C. for 1.5 h, and the reaction was stopped by adding solid ammonium chloride until the blue color disappeared. The ammonia was then allowed to evaporate off, and 150 ml of water were added to the residue. The THF was removed in vacuo. The aqueous was adjusted to pH 2 with 1 N HCl and extracted 3 times with 100 ml of ethyl acetate each time. The combined organic phases were dried with MgSO4. The solvents were removed in vacuo, and the residue was filtered through silica gel with 4% methanol in dichloromethane. The product obtained in this way was taken up in 5 ml of methanol and cooled to 0° C. 0.5 ml of a 2 N solution of trimethylsilyldiazomethane in hexane was added thereto 5 times at intervals of 1.5 hours each. 2 ml of acetic acid were then added dropwise, and the mixture was stirred at room temperature for 1 h. The solvents were removed in vacuo and the residue was chromatographed on silica gel.

reactant | ammonia | 50 ml | N | H3N
reactant | sodium | 340 mg | [Na] | Na
reactant | tert-butyl (3S,5R,6S)-3-allyl-2-oxo-5,6-diphenyl-3-[1-(2-trimethylsilanylethoxycarbonyl)piperidin-4-yl]morpholine-4-carboxylate | 916 mg | C(C=C)[C@]1(N([C@@H]([C@@H](OC1=O)C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC(C)(C)C)C1CCN(CC1)C(=O)OCC[Si](C)(C)C | C35H48N2O6Si
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | methanol | 5 ml | CO | CH4O
solvent | hexane | CCCCCC | C6H14
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 866 μl | C(C)O | C2H6O
product | 2-Trimethylsilanylethyl 4-((S)-1-tert-butoxycarbonylamino-1-methoxycarbonyl-but-3-enyl)piperidine-1-carboxylate | C(C)(C)(C)OC(=O)N[C@](CC=C)(C(=O)OC)C1CCN(CC1)C(=O)OCC[Si](C)(C)C | C22H40N2O6Si
